US05280032
1.6 g of 4-methyl-2-formylthiazole was dissolved in 30 ml of tetrahydrofuran. The solution was cooled to -30° C. Thereto was dropwise added, in 10 minutes, 10 ml of a tetrahydrofuran solution containing 1.6M of 2-chloroethoxymethylmagnesium chloride. The mixture was stirred for 1 hour with ice cooling. The reaction mixture was added to a mixture of 50 ml of ice water, 50 ml of ethyl acetate and 2 g of ammonium chloride. The resulting mixture was adjusted to pH 2 with 6N hydrochloric acid and stirred at the same temperature for 5 minutes. The reaction mixture was adjusted to pH 6 with a saturated aqueous sodium hydrogencarbonate solution. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: toluene/ethyl acetate=4/1) to obtain 1.3 g of oily 1-(4-methyl-2-thiazolyl)-2-(2-chloroethoxy)ethanol.

reactant | 4-methyl-2-formylthiazole | 1.6 g | CC=1N=C(SC1)C=O | C5H5NOS
reactant | 2-chloroethoxymethylmagnesium chloride | 1.6M | ClCCOC[Mg]Cl
reactant | ammonium chloride | 2 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-methyl-2-thiazolyl)-2-(2-chloroethoxy)ethanol | 1.3 g | CC=1N=C(SC1)C(COCCCl)O | C8H12ClNO2S
